US08183240B2
Step 2: 4-(2,4-dichlorophenyl)-5-(4,5-dihydro-1H-imidazol-2-yl)-2-morpholin-4-ylthiophene-3-carbonitrile
To a suspension of N-(2-aminoethyl)-4-cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carboxamide (2.50 g, 5.90 mmol) in toluene (20 mL) was added phosphoryl chloride (4.70 mL, 50.0 mmol) and the mixture was stirred under microwave irradiation at 120° C. for 25 minutes. The reaction mixture was evaporated and the residue was suspended in methylene chloride and then quenched with ice water. The aqueous layer was basified by addition of KOH, the layers were separated and the aqueous layer was extracted again with methylene chloride. The organic layers were combined and washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford the crude product (2.3 gr, 77%). LCMS: (FA) ES+ 408. 1H NMR (400 MHz, d6-DMSO) δ: 7.78-7.75 (m, 1H), 7.52-7.49 (m, 2H), 3.79-3.73 (m, 4H), 3.63-3.55 (m, 2H), 3.54-3.48 (m, 4H), 3.20-3.11 (m, 2H).

reactant | N-(2-aminoethyl)-4-cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carboxamide | 5.90 mmol, 2.50 g | NCCNC(=O)C=1SC(=C(C1C1=C(C=C(C=C1)Cl)Cl)C#N)N1CCOCC1 | C18H18Cl2N4O2S
reactant | phosphoryl chloride | 50.0 mmol, 4.70 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2,4-dichlorophenyl)-5-(4,5-dihydro-1H-imidazol-2-yl)-2-morpholin-4-ylthiophene-3-carbonitrile | 2.3 gr, 77% | ClC1=C(C=CC(=C1)Cl)C=1C(=C(SC1C=1NCCN1)N1CCOCC1)C#N | C18H16Cl2N4OS
